US07166598B2
Thionyl chloride (0.7 ml) was added dropwise to a solution of 3-methoxy-4-methyl-D-phenylalanine hydrochloride (1.75 g) in methanol (8 ml) over 10 minutes at room temperature. The whole was stirred at 40–50° C. for 2 hours and then an additional thionyl chloride (0.7 ml) was added to the mixture. The whole mixture was stirred for further 1 hour and evaporated under reduced pressure. The resulting solid was triturated with diisopropyl ether and collected by filtration to give colorless crystals of 3-methoxy-4-methyl-D-phenylalanine methyl ester hydrochloride (1.70 g).

reactant | Thionyl chloride | 0.7 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-methoxy-4-methyl-D-phenylalanine hydrochloride | 1.75 g | Cl.COC=1C=C(C[C@@H](N)C(=O)O)C=CC1C
reactant | thionyl chloride | 0.7 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 8 ml | CO | CH4O
product | 3-methoxy-4-methyl-D-phenylalanine methyl ester hydrochloride | 1.70 g | Cl.COC([C@H](N)CC1=CC(=C(C=C1)C)OC)=O | InChI=1S/C12H17NO3.ClH/c1-8-4-5-9(7-11(8)15-2)6-10(13)12(14)16-3;/h4-5,7,10H,6,13H2,1-3H3;1H/t10-;/m1./s1
